US04997943
64 ml of 6N aqueous hydrochloric acid were added to a solution of 4.16 g (0.019 mole) of 3-amino-1-t-butoxycarbonyl-4-methoxypyrrolidine in 200 ml of ethanol, and the mixture was heated under reflux for 1 hour. At the end of this time, the solvent was completely removed by evaporation to dryness under reduced pressure to obtain cis-3-amino-4-methoxypyrrolidine dihydrochloride as a brown powder. The whole of this dihydrochloride was dissolved in 20 ml of water, 1.97 g (0.037 mole) of sodium methoxide was added thereto, and the solvent was removed by evaporation under reduced pressure to give a residue, which was washed with a 1:1 by volume mixture of ethanol and ethyl acetate. The washings were concentrated by evaporation under reduced pressure to afford 2.06 g of cis-3-amino-4-methoxypyrrolidine as a brown oily substance.

reactant | hydrochloric acid | 6N, 64 ml | Cl | ClH
reactant | 3-amino-1-t-butoxycarbonyl-4-methoxypyrrolidine | 0.019 mole, 4.16 g | NC1CN(CC1OC)C(=O)OC(C)(C)C | C10H20N2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | cis-3-amino-4-methoxypyrrolidine dihydrochloride | Cl.Cl.N[C@@H]1CNC[C@@H]1OC | InChI=1S/C5H12N2O.2ClH/c1-8-5-3-7-2-4(5)6;;/h4-5,7H,2-3,6H2,1H3;2*1H/t4-,5+;;/m1../s1
